Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.8448361787400005
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4],3.94397507645
[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C@@:9]([C:7](=[C:5][H:6])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14],3.5382103228500004
[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-7.75543558518
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13].[H:4],1.91926953865
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.13630223005
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7]>>[C:1]#[C:2][O:3][C:4][H:5].[O:6][H:7],6.62571846388
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]=[O:8]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])#[C:7][O:8],3.14308428338
[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5]=[O:6]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9],-2.97140483777
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:10]([H:11])([H:12])[H:13],0.18618149262000006
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],0.7226283706800001
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.073821658469998
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-3.37144972809
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:8]([H:7])[H:9],2.22735345883
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.00473921451
[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],2.47727299675
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.54294141809
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-7.50549592522
[C:1]#[C:2][O:3][C:4][C:5](=[O:6])[H:7]>>[C:1]#[C:2][O:3][C:4].[C:5](=[O:6])[H:7],1.57360411364
[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.76181316608
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5],1.54063100136
[C:1]#[C:2].[C:3]#[C:4][C:5][O:6][H:7]>>[C:1]#[C:2][C:3]#[C:4][C:5][O:6][H:7],-7.1554179102
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],4.29908819119
[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],-4.36430372187
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:10][C:11]([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-2.28390772055
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:6],1.85749805112
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:8],2.32405195259
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:11]([H:12])([H:13])[H:14].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],4.80119936612
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[C:1][C:2]([O:3][H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.59622838626
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],3.3139522037299995
